US09216980B2
Step 4: 4-Chloro-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 4-chloro-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile-7-oxide with 2-chloro-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile-7-oxide (6.5:1, 220 mg, 0.59 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (17 mg, 0.02 mmol), and triethylamine (0.24 mL, 1.8 mmol) in acetonitrile (3.1 mL) was heated under microwave irradiation at 130° C. for 20 minutes. The cooled reaction mixture was concentrated in vacuo and purified by flash chromatography (silica, 40 g, ISCO, 5-85% ethyl acetate in heptane) to afford the title compound as a 6.5:1 mixture of the title compound with 2-chloro-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile as an off-white solid (180 mg, 80%). The mixture was used in subsequent steps without any further purification. 1H NMR (CDCl3, 400 MHz): 9.20 (d, J=0.9 Hz, 1H), 8.74 (d, J=0.9 Hz, 1H), 8.60 (d, J=5.3 Hz, 1H), 7.39 (d, J=5.3 Hz, 1H), 6.02 (s, 2H), 3.60 (t, J=8.0 Hz, 2H), 0.94 (t, J=8.0 Hz, 2H), −0.08 (s, 9H).

reactant | 4-chloro-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile-7-oxide | ClC1=CC=NC=2N(C3=C(C21)C=C([N+](=C3)[O-])C#N)COCC[Si](C)(C)C | C17H19ClN4O2Si
reactant | 2-chloro-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile-7-oxide | 0.59 mmol, 220 mg | ClC=1C=CC2=C(N(C3=C2C=C([N+](=C3)[O-])C#N)COCC[Si](C)(C)C)N1 | C17H19ClN4O2Si
reactant | triethylamine | 1.8 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3.1 mL | C(C)#N | C2H3N
product | 4-Chloro-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | ClC1=CC=NC=2N(C3=C(C21)C=C(N=C3)C#N)COCC[Si](C)(C)C | C17H19ClN4OSi
